US09120749B2
1-{6-Bromo-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (340 mg, 1.20 mmol) was reacted with 3-(2-(dimethylamino)ethyl)aniline (215 mg, 1.31 mmol) to afford the desired product (360 mg, 50%) as a yellow solid: ESI MS m/z 412 [C21H22BrN3O+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 1.20 mmol, 340 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | 3-(2-(dimethylamino)ethyl)aniline | 1.31 mmol, 215 mg | CN(CCC=1C=C(N)C=CC1)C | C10H16N2
product | 1-{6-Bromo-4-[3-(2-(dimethylamino)ethyl)phenylamino]quinolin-3-yl}ethanone | 360 mg, 50% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC(=CC=C1)CCN(C)C | C21H22BrN3O
